US03984459
a. Acetic acid-2-(3-chlorpropyl)-benzyl ester
70 g (345 mmols) of 3-(2-Chloromethylphenyl)-propyl chloride (JACS 75, 2053 (1953)) and 50 g (0.61 mmol) of sodium acetate were heated to the boiling point while stirring in 250 ml of glacial acetic acid. It resulted from the thin layer chromatography that the reaction was finished after 41/2 hours. After cooling about 700 ml of water were added and the product was extracted with benzene. The organic phase was washed with water, dried and distilled off after evaporation of the solvent.

reactant | 3-(2-Chloromethylphenyl)-propyl chloride | 345 mmols, 70 g | ClCC1=C(C=CC=C1)CCCCl | C10H12Cl2
reactant | sodium acetate | 0.61 mmol, 50 g | C(C)(=O)[O-].[Na+]
reactant | water | about 700 ml | O | H2O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | Acetic acid-2-(3-chlorpropyl)-benzyl ester | ClCCCC1=C(COC(C)=O)C=CC=C1 | C12H15ClO2
